US07435823B2
Step (b) Preparation of 7-(6,7-dimethoxyquinolin-4-yloxy)-N-(isoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide
To a solution of 7-(6,7-dimethoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine (100 mg, 0.2955 mmol) and 4-nitrophenyl isoxazol-3-ylcarbamate (294 mg, 1.182 mmol) in CH2Cl2 (3 mL) DIPEA (269 μL, 2.069 mmol) was added at RT. The reaction mixture was stirred at 35° C. for 15 h before the solution was concentrated in vacuo and purified with column chromatography using 100% EtOAc→10%→30%→50% 19:1 EtOAc:MeOH to yield the title compound. MS (ESI, pos. ion) m/z: 449 (M+1). Mass calc'd for C23H20N4O6: 448.44.

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 0.2955 mmol, 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2)C1 | C19H18N2O4
reactant | 4-nitrophenyl isoxazol-3-ylcarbamate | 1.182 mmol, 294 mg | O1N=C(C=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H7N3O5
reactant | CH2Cl2 | 2.069 mmol, 3 mL | C(Cl)Cl | CH2Cl2
product | 7-(6,7-dimethoxyquinolin-4-yloxy)-N-(isoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2C(=O)NC2=NOC=C2)C1 | C23H20N4O6
